US07820683B2
5-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-N-[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine
Using the same procedure as in Example 44, (2S)-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoic acid (380 mg, 0.84 mmol) was reacted with morpholine to give the title compound as a white solid (158 mg, 37%); NMR Spectrum 1.58 (d, 3H), 3.40-3.75 (m, 8H), 5.88 (q, 1H), 6.04 (s, 2H), 7.29 (d, 1H), 7.36 (d, 1H), 7.66 (s, 1H), 7.73-7.78 (m, 3H), 7.88-7.90 (m, 1H), 8.20 (s, 1H), 8.52 (s, 1H), 8.55 (s, 1H), 11.15 (br s, 1H); Mass spectrum MH+ 516.

reactant | (2S)-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoic acid | 0.84 mmol, 380 mg | S1C(=NC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@H](C(=O)O)C | C22H18N6O3S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-N-[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine | 158 mg, 37% | C[C@@H](C(=O)N1CCOCC1)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC=1SC=CN1 | C26H25N7O3S
